US07781478B2
A solution of N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]methanesulfonamide (85 mg, 0.23 mmol) in CH2Cl2 (2 mL) is cooled to −5° C. A solution of boron tribromide (1.15 mL, 1.15 mmol, 1M solution in CH2Cl2) is added and the reaction mixture is allowed to warm to 10° C. over 4 h. The reaction mixture is poured into H2O and extracted with EtOAc (3×). The combined organic phases are washed with H2O and saturated NaCl and dried and concentrated. Chromatography over silica gel (EtOAc/CH2Cl2, 5-10%) gives 18 mg (22%) of N-[4-(3-cyano-1-ethyl-6-hydroxy-1H-indol-2-yl)-phenyl]methanesulfonamide as a tan solid.

reactant | N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]methanesulfonamide | 0.23 mmol, 85 mg | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C=C1)NS(=O)(=O)C | C19H19N3O3S
reactant | boron tribromide | 1.15 mmol, 1M, 1.15 mL | B(Br)(Br)Br | BBr3
reactant | H2O | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-cyano-1-ethyl-6-hydroxy-1H-indol-2-yl)-phenyl]methanesulfonamide | 18 mg, 22% | C(#N)C1=C(N(C2=CC(=CC=C12)O)CC)C1=CC=C(C=C1)NS(=O)(=O)C | C18H17N3O3S
